* E60 3-phase LLC 40kw:Lr6.5u/Cr6x33n/Lm63u/Coss250p VBUS=830 VBANK=475 fsw=93.518k PFM
.model DREC D(Is=1e-9 N=1.8 Rs=0.022)
.model DBODY D(Is=1e-12 N=4 Rs=0.03)
VBUS bus 0 DC 830

VGH1 gh1 0 PULSE(0 1 0.00000e+0 20n 20n 5.20654e-6 1.06931e-5)
VGL1 gl1 0 PULSE(0 1 5.34654e-6 20n 20n 5.20654e-6 1.06931e-5)
VHS1 bus bh1 DC 0
BSH1 bh1 leg1 I=v(bh1,leg1)*(2e-5+v(gh1)*28.57)
BSL1 leg1 0 I=v(leg1)*(2e-5+v(gl1)*28.57)
DBH1 leg1 bh1 DBODY
DBL1 0 leg1 DBODY
CPAR1 leg1 0 2.5e-10
VSP1 leg1 tk1 DC 0
CR1 tk1 tk1b 1.98000e-7 ic=0
LR1 tk1b pri1 6.50000e-6
RW1 pri1 pri1b 0.005
LM1 pri1b star 6.30000e-5
LS11 s11w s11n 6.30000e-5
RW11 s11w s11p 0.005
VSA1 s11p s11q DC 0
LS21 s21w s21n 6.30000e-5
RW21 s21w s21p 0.005
VSB1 s21p s21q DC 0
KA1 LM1 LS11 0.9999
KB1 LM1 LS21 0.9999
KC1 LS11 LS21 0.9999
RB11 s11q 0ba 1meg
RB21 s11n 0ba 1meg
RB31 s21q 0bb 1meg
RB41 s21n 0bb 1meg
DA11 s11q bkA DREC
DA21 0ba s11q DREC
DA31 s11n bkA DREC
DA41 0ba s11n DREC
DB11 s21q bkB DREC
DB21 0bb s21q DREC
DB31 s21n bkB DREC
DB41 0bb s21n DREC

VGH2 gh2 0 PULSE(0 1 3.56436e-6 20n 20n 5.20654e-6 1.06931e-5)
VGL2 gl2 0 PULSE(0 1 8.91090e-6 20n 20n 5.20654e-6 1.06931e-5)
VHS2 bus bh2 DC 0
BSH2 bh2 leg2 I=v(bh2,leg2)*(2e-5+v(gh2)*28.57)
BSL2 leg2 0 I=v(leg2)*(2e-5+v(gl2)*28.57)
DBH2 leg2 bh2 DBODY
DBL2 0 leg2 DBODY
CPAR2 leg2 0 2.5e-10
VSP2 leg2 tk2 DC 0
CR2 tk2 tk2b 1.98000e-7 ic=0
LR2 tk2b pri2 6.50000e-6
RW2 pri2 pri2b 0.005
LM2 pri2b star 6.30000e-5
LS12 s12w s12n 6.30000e-5
RW12 s12w s12p 0.005
VSA2 s12p s12q DC 0
LS22 s22w s22n 6.30000e-5
RW22 s22w s22p 0.005
VSB2 s22p s22q DC 0
KA2 LM2 LS12 0.9999
KB2 LM2 LS22 0.9999
KC2 LS12 LS22 0.9999
RB12 s12q 0ba 1meg
RB22 s12n 0ba 1meg
RB32 s22q 0bb 1meg
RB42 s22n 0bb 1meg
DA12 s12q bkA DREC
DA22 0ba s12q DREC
DA32 s12n bkA DREC
DA42 0ba s12n DREC
DB12 s22q bkB DREC
DB22 0bb s22q DREC
DB32 s22n bkB DREC
DB42 0bb s22n DREC

VGH3 gh3 0 PULSE(0 1 7.12872e-6 20n 20n 5.20654e-6 1.06931e-5)
VGL3 gl3 0 PULSE(0 1 1.24753e-5 20n 20n 5.20654e-6 1.06931e-5)
VHS3 bus bh3 DC 0
BSH3 bh3 leg3 I=v(bh3,leg3)*(2e-5+v(gh3)*28.57)
BSL3 leg3 0 I=v(leg3)*(2e-5+v(gl3)*28.57)
DBH3 leg3 bh3 DBODY
DBL3 0 leg3 DBODY
CPAR3 leg3 0 2.5e-10
VSP3 leg3 tk3 DC 0
CR3 tk3 tk3b 1.98000e-7 ic=0
LR3 tk3b pri3 6.50000e-6
RW3 pri3 pri3b 0.005
LM3 pri3b star 6.30000e-5
LS13 s13w s13n 6.30000e-5
RW13 s13w s13p 0.005
VSA3 s13p s13q DC 0
LS23 s23w s23n 6.30000e-5
RW23 s23w s23p 0.005
VSB3 s23p s23q DC 0
KA3 LM3 LS13 0.9999
KB3 LM3 LS23 0.9999
KC3 LS13 LS23 0.9999
RB13 s13q 0ba 1meg
RB23 s13n 0ba 1meg
RB33 s23q 0bb 1meg
RB43 s23n 0bb 1meg
DA13 s13q bkA DREC
DA23 0ba s13q DREC
DA33 s13n bkA DREC
DA43 0ba s13n DREC
DB13 s23q bkB DREC
DB23 0bb s23q DREC
DB33 s23n bkB DREC
DB43 0bb s23n DREC
VBKA bkA 0ba DC 475
VBKB bkB 0bb DC 475
RTA 0ba 0 1u
RTB 0bb 0 1u
* primary star held at mid-bus by the drawn 2×47 k per side star/balance chain (HR-20) — Cr carries no DC
RSTP star bus 94k
RSTN star 0 94k
.tran 30n 6.41585e-4 4.70496e-4 15n uic
.option method=gear reltol=1e-3 abstol=1e-6 vntol=1u itl4=100
.control
set filetype=ascii
run
let vcr1 = v(tk1)-v(tk1b)
let vcr2 = v(tk2)-v(tk2b)
let vcr3 = v(tk3)-v(tk3b)
wrdata llc-40kw-ENV475-100.out i(VSP1) i(VSP2) i(VSP3) i(VSA1) i(VSB1) vcr1 vcr2 vcr3 v(leg1) v(leg2) v(leg3) v(gh1) v(gh2) v(gh3) v(gl1) i(VBKA) i(VBKB) i(VHS1)
quit
.endc
.end